US07671066B2
Preparation of 3,4-dimethoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5606)
The compound was obtained starting from 3,4-dimethoxy-benzoyl chloride and 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro -pyridin-4-yl)-ethanone, following the procedure of Example 7.

reactant | 3,4-dimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro -pyridin-4-yl)-ethanone | C1(CC1)COC=1C=C(C=CC1OC)C(CC1=C(C=NC=C1Cl)Cl)=O | C18H17Cl2NO3
product | 3,4-dimethoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CC1)COC=1C=C(C=CC1OC)/C(=C/C1=C(C=NC=C1Cl)Cl)/OC(C1=CC(=C(C=C1)OC)OC)=O | C27H25Cl2NO6
